US08304446B2
N-({3-[(3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-hydroxy-1H-indazol-1-yl)methyl]phenyl}methyl)acetamide
To a solution of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-hexafluorophosphate (39.7 mg, 0.064 mmol) in anhydrous DMF (1 mL) was added at room temperature acetic acid (3.36 μL, 0.059 mmol), followed by N,N-diisopropylethylamine (0.031 mL, 0.18 mmol) and finally a solution of N-(1-{[3-(aminomethyl)phenyl]methyl}-4-hydroxy-1H-indazol-3-yl)-5-chloro-2-thiophenesulfonamide formate salt (for a preparation see Intermediate 15) (29 mg, 0.059 mmol) in anhydrous DMF (1 mL) and the reaction mixture was stirred at room temperature for 30 min. The mixture was partitioned between saturated aqueous sodium hydrogen carbonate solution and ethyl acetate. The organic layer was separated, washed with brine:water (1:1), passed through a hydrophobic frit and evaporated in-vacuo to yield a colourless oil (23 mg). This was dissolved in MeOH:DMSO (1 mL) and purified by MDAP Sunfire C18 column eluting with solvents A/B (A: 0.1% v/v solution of formic acid in water, B: 0.1% v/v solution of formic acid in acetonitrile) (25 min run). The appropriate fraction was evaporated in-vacuo to yield the title compound as a colourless oil (20 mg, 69%). LCMS (System B) RT=2.41 min, ES+ve m/z 491/493 (M+H)+.

reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.064 mmol, 39.7 mg | N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | acetic acid | 0.059 mmol, 3.36 μL | C(C)(=O)O | C2H4O2
reactant | N,N-diisopropylethylamine | 0.18 mmol, 0.031 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(1-{[3-(aminomethyl)phenyl]methyl}-4-hydroxy-1H-indazol-3-yl)-5-chloro-2-thiophenesulfonamide formate salt | C(=O)O.NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)O)NS(=O)(=O)C=1SC(=CC1)Cl
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-({3-[(3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-hydroxy-1H-indazol-1-yl)methyl]phenyl}methyl)acetamide | 23 mg | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)O)CC=1C=C(C=CC1)CNC(C)=O | C21H19ClN4O4S2
